US07868017B2
c) 6-Methoxybenzo[b]thiophene
Boron trifluoride etherate (8.15 mL) dissolved in dry dichloromethane (407 mL) was stirred rapidly at 0° C. under nitrogen and a solution of (3-methoxyphenylsulphanyl)acetaldehyde (11.5 g, 63.10 mmol) in dry dichloromethane (29 mL) was added dropwise over 25 min. The resultant green solution was stirred for 2 min and then saturated aqueous sodium bicarbonate solution (150 mL) was added at a rate so as to maintain the temperature <8° C. The reaction mixture was stirred for 5 min and then the layers were separated and the organic layer was washed with saturated aqueous sodium bicarbonate solution (100 mL) and water (100 mL). The organic phase was dried (MgSO4), and concentrated in vacuo. The product was purified by distillation to afford the title compound as a colourless oil (6.29 g, 61%, b.p. 83-88° C. at 16 mBar).

reactant | Boron trifluoride etherate | 8.15 mL | B(F)(F)F.CCOCC
reactant | (3-methoxyphenylsulphanyl)acetaldehyde | 63.10 mmol, 11.5 g | COC=1C=C(C=CC1)SCC=O | C9H10O2S
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 407 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 29 mL | ClCCl | CH2Cl2
product | 6-Methoxybenzo[b]thiophene | 6.29 g, 61% | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
